US05547967
29 ml of 1-bromo-3-chloropropane were dissolved in 300 ml of dimethylformamide and 24 g of potassium carbonate were added to the solution. A solution of 18 g N-[2-(3,4-dimethoxyphenyl)-ethyl]-N-methylamine in 50 ml of dimethylformamide were added to the reaction mixture with stirring, dropwise within 2 hours. Then the reaction mixture was stirred for another hour. Then the salts formed were filtered off. The filtrate was concentrated at a maximum bath temperature of 50° C. The residue was dissolved in 200 ml of 0.5 m citric acid solution and the solution was extracted to remove unreacted bromochloropropane with methyl-tert-butyl ether. The aqueous phase was then made slightly alkaline by adding sodium hydrogen carbonate and extracted several times with ethyl acetate. Then the combined ethyl acetate extracts were dried with magnesium sulfate and concentrated. 21 g of 3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-N-methylamino]-propyl chloride were obtained as the residue.

reactant | 1-bromo-3-chloropropane | 29 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-[2-(3,4-dimethoxyphenyl)-ethyl]-N-methylamine | 18 g | COC=1C=C(C=CC1OC)CCNC | C11H17NO2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-N-methylamino]-propyl chloride | 21 g | COC=1C=C(C=CC1OC)CCN(C)CCCCl | C14H22ClNO2
